US07410966B2
6-Bromo-2-(1H-pyrrol-2-yl)-3H-imidazo[4,5-b]pyridine
The title compound was prepared from 5-bromo-2,3-diaminopyridine and pyrrole-2-carboxaldehyde.

reactant | 5-bromo-2,3-diaminopyridine | BrC=1C=C(C(=NC1)N)N | C5H6BrN3
reactant | pyrrole-2-carboxaldehyde | N1C(=CC=C1)C=O | C5H5NO
product | 6-Bromo-2-(1H-pyrrol-2-yl)-3H-imidazo[4,5-b]pyridine | BrC=1C=C2C(=NC1)NC(=N2)C=2NC=CC2 | C10H7BrN4
